US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-hydroxy-7-methoxy-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
To a solution of 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (1.4 g, 5.8 mmol, 1.0 equiv) and TBTU (2.0 g, 6.2 mmol, 1.1 equiv) in dry acetonitrile (30 mL) triethylamine (2 mL, 14.5 mmol, 2.5 equiv) is added. 7-Methoxy-1-methyl-1,2,3,4-tetrahydro-isoquinolin-6-ol (1.4 g, 7.25 mmol, 1.25 equiv) is then added. The reaction mixture is stirred at 50° C. for 2 h, then at room temperature for 8 h, and concentrated. The residue is extracted with dichloromethane. The extract is washed with water (20 ml), dried over sodium disulfate, and concentrated. The residue is purified by column chromatography on silica gel (eluent: hexane/ethyl acetate—1/1, Rf 0.3) to provide 0.511 g of the title compound as an oil.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 5.8 mmol, 1.4 g, 1.0 equiv | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | TBTU | 6.2 mmol, 2.0 g, 1.1 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | acetonitrile | 14.5 mmol, 30 mL, 2.5 equiv | C(C)#N | C2H3N
reactant | 7-Methoxy-1-methyl-1,2,3,4-tetrahydro-isoquinolin-6-ol | 7.25 mmol, 1.4 g, 1.25 equiv | COC1=C(C=C2CCNC(C2=C1)C)O | C11H15NO2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6-hydroxy-7-methoxy-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | 0.511 g, Yield: 21% | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC(=C(C=C1CC2)O)OC)C | C18H17BrN4O3
